US04344964
1-[2-cyano-4-(isobutyroyl-amino)-phenoxy]-3-(1-ethinyl-cyclohexylamino)-2-propanol by method A
7.8 gm (0.03 mol) of 1-[2-cyano-4-(isobutyroyl-amino)-phenoxy]-2,3-epoxy-propane were dissolved in 80 ml of ethanol, and after addition of 7.5 gm (0.06 mol) of 1-ethinyl-cyclohexyl-amine the mixture was refluxed for one hour. The solvent was then distilled off, and the residue was acidified with dilute HCl. After extraction with ethyl acetate the aqueous phase was made alkaline by addition of NaOH, whereby basic components precipitated in oily form. They were taken up in ethyl acetate, the organic phase was washed with water, dried over MgSO4, evaporated and the solid residue was recrystallized twice from acetonitrile.

reactant | 1-[2-cyano-4-(isobutyroyl-amino)-phenoxy]-2,3-epoxy-propane | 0.03 mol, 7.8 gm | C(#N)C1=C(OCC2CO2)C=CC(=C1)NC(C(C)C)=O | C14H16N2O3
reactant | 1-ethinyl-cyclohexyl-amine | 0.06 mol, 7.5 gm | C(#C)C1(CCCCC1)N | C8H13N
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 1-[2-cyano-4-(isobutyroyl-amino)-phenoxy]-3-(1-ethinyl-cyclohexylamino)-2-propanol | C(#N)C1=C(OCC(CNC2(CCCCC2)C#C)O)C=CC(=C1)NC(C(C)C)=O | C22H29N3O3
